US04910218
Using the procedure outlined in Example 34A, 11H-benzo[a]carbazole (Cambridge Chemicals, Inc.) gave a 97.3% yield of 11-methyl-11H-benzo[a]carbazole, mp 167°-169°, (hexane), (C,H,N).

reactant | 11H-benzo[a]carbazole | C1=CC=CC=2C1=C1NC3=CC=CC=C3C1=CC2 | C16H11N
reactant | hexane | CCCCCC | C6H14
product | 11-methyl-11H-benzo[a]carbazole | 97.3% yield | CN1C2=CC=CC=C2C2=CC=C3C(=C12)C=CC=C3 | C17H13N
